US05849936
(+)-Tridec-1-en-3-ol (i-a)
To a solution of vinyl magnesium bromide in tetrahydrofuiran (1M, 82.0 mL) at 0° C. was added a solution of undecanal i (7.00 g, 41.1 mmol) in tetrahydrofuiran (25 mnL) in about 10 min. After 6 h at 0° C., saturated ammonium chloride solution (50 mL) was added. The two layers were separated. The water layer was extracted with ether (2×50 mL). The combined organic solutions were dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (10% ethyl acetate in hexane) to give 7.94 g (98%) of i-a as a colorless oil: IR (neat) 3409, 3079, 1644, and 1463 cm-1 ; 1H NMR (CDCl3, 300 MHz) δ 5.80 (ddd, 1 H, J=6.3, 10.7, and 17.2 Hz, CH=CH2), 5.55 (dd, 1 H, J=17.2 and 1.4 Hz, CH=CH2), 5.05 (dd, 1 H, J=10.7 and 1.4 Hz, CH=CH2), 3.99 (q, 1 H, J=6.2 Hz, CHOH), 2.58 (br s, 1 H, OH, 1.46-1.22 [m, 18 H, C(4-12)H2 ], and 0.83 (t, J=6.4 Hz, CH2CH3); 13C NMR (CDCl3, 75.5 MHz) δ 141.61, 114.50, 73.33, 37.24, 32.12, 29.83, 29.55, 25.57, 22.87, and 14.26.

reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | undecanal | C(CCCCCCCCCC)=O | C11H22O
solvent | ammonium chloride | 50 mL | [Cl-].[NH4+]
product | (+)-Tridec-1-en-3-ol | C=CC(CCCCCCCCCC)O | C13H26O
